US07595320B2
A suspension of 16.4 g (0.063 mol) of ethyl 4-cyano-5-methylsulfonylthiophene-2-carboxylate in 160 mL of absolute ethanol is refluxed until the product has dissolved, and a solution of 6.2 mL (0.126 mol) of hydrazine hydrate in 40 mL of absolute ethanol is then added dropwise. The reaction mixture is stirred at reflux for 2 hours, and 4.6 mL (0.094 mol) of hydrazine hydrate are then added dropwise and stirring at reflux is continued for two hours. After cooling to a temperature in the region of 25° C., the mixture is concentrated to dryness under vacuum (2 kPa) at a temperature in the region of 40° C. The residue is taken up in 200 mL of ethanol and a solution of 13.2 mL (0.158 mol) of 12 N hydrochloric acid is added with stirring at a temperature in the region of 25° C. The reaction mixture is stirred at a temperature in the region of 25° C. for 4 hours, and then poured slowly into 500 mL of saturated sodium hydrogen carbonate solution precooled to 10° C. After stirring for 30 minutes, the mixture is extracted three times with 600 mL of ethyl acetate. The organic extracts are combined, washed twice with 300 mL of saturated brine, dried over magnesium sulfate, filtered and concentrated to dryness under vacuum (2 kPa) at a temperature in the region of 40° C. The residue is purified by chromatography on a column of 500 g of silica gel (0.020-0.045 mm), eluting with pure ethyl acetate. The fractions containing the expected product are combined and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 3.4 g of ethyl 3-amino-1H-thieno[2,3-c]pyrazole)-5-carboxylate are thus obtained in the form of a brown-colored powder, which product is used directly in the following step. MS-EI: 211 (+)=M(+).

reactant | ethyl 4-cyano-5-methylsulfonylthiophene-2-carboxylate | 0.063 mol, 16.4 g | C(#N)C=1C=C(SC1S(=O)(=O)C)C(=O)OCC | C9H9NO4S2
reactant | hydrazine hydrate | 0.126 mol, 6.2 mL | O.NN
reactant | hydrazine hydrate | 0.094 mol, 4.6 mL | O.NN
reactant | hydrochloric acid | 0.158 mol, 12 N, 13.2 mL | Cl | ClH
reactant | sodium hydrogen carbonate | 500 mL | C(O)([O-])=O.[Na+]
reactant | ethanol | 160 mL | C(C)O | C2H6O
reactant | ethanol | 40 mL | C(C)O | C2H6O
product | ethyl 3-amino-1H-thieno[2,3-c]pyrazole | 3.4 g | C(C)N1N=C(C2=C1SC=C2)N | C7H9N3S
